US09388189B2
a) (S)-2-(1-((5-Bromo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)-3-hydroxypropyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-3-Hydroxy-1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)propan-1-aminium chloride (228 mg, 0.68 mmol) was treated with 5-bromo-4-chloro-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine (495 mg, 1.36 mmol), cesium fluoride (41 mg, 0.27 mmol) and N,N-diisopropylethylamine (1.60 ml, 9.19 mmol) in tert-butanol (5.0 ml) according to Preparation 13 but stirring the reaction mixture at 100° C. during 96 h. The residue was purified using SP1® Purification System (0% to 100%, hexane-ethyl acetate) to give 249 mg (57% yield) of the title compound.

reactant | (S)-3-Hydroxy-1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)propan-1-aminium chloride | 0.68 mmol, 228 mg | [Cl-].OCC[C@H]([NH3+])C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C
reactant | 5-bromo-4-chloro-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine | 1.36 mmol, 495 mg | BrC1=CN(C=2N=CN=C(C21)Cl)COCC[Si](C)(C)C | C12H17BrClN3OSi
reactant | cesium fluoride | 0.27 mmol, 41 mg | [F-].[Cs+]
reactant | N,N-diisopropylethylamine | 9.19 mmol, 1.60 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tert-butanol | 5.0 ml | C(C)(C)(C)O | C4H10O
product | (S)-2-(1-((5-Bromo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)-3-hydroxypropyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 249 mg, 57% yield | BrC1=CN(C=2N=CN=C(C21)N[C@@H](CCO)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C28H34BrN7O3Si
